US04003908
By replacing 5-amino-6-ethylamino-4-chloro-2-methylpyridine-3-carboxylic acid, ethyl ester in Example 1 d with 5-amino-6-butylamino-4-chloro-2-methylpyridine-3-carboxylic acid, ethyl ester, 3-butyl-7-chloro-5-methyl-3H-imidazo[4,5-b]-pyridine-6-carboxylic acid, ethyl ester is obtained. Yield 83%, b.p. 190°-200° 10/01.

reactant | 5-amino-6-ethylamino-4-chloro-2-methylpyridine-3-carboxylic acid, ethyl ester | NC=1C(=C(C(=NC1NCC)C)C(=O)OCC)Cl | C11H16ClN3O2
reactant | 5-amino-6-butylamino-4-chloro-2-methylpyridine-3-carboxylic acid, ethyl ester | NC=1C(=C(C(=NC1NCCCC)C)C(=O)OCC)Cl | C13H20ClN3O2
product | 3-butyl-7-chloro-5-methyl-3H-imidazo[4,5-b]-pyridine-6-carboxylic acid, ethyl ester | C(CCC)N1C=NC=2C1=NC(=C(C2Cl)C(=O)OCC)C | C14H18ClN3O2
